US04927819
Step B 5-Hydroxy-5,6-dimethyl-dibenzo[a,e]cyclooct-11-ene
To a stirred solution of 5-methyl-6-oxo-dibenzo[a,e]cyclooctene (0.1 g) in anhydrous diethyl ether (10 ml) under nitrogen at 0° C. was added methyl lithium (0.43 ml of a 1.4 M solution in diethyl ether). After stirring for approximately 30 minutes water (10 ml) was added. The phases were separated and the ethereal layer was washed with water (2×10 ml), dried (Na2SO4) and the solvent removed in vacuo to give the title compound as a colourless solid (0.104 g), mP 86°-87° C. δ1.43 (CDCl3 360 MHz,) (3H, s, C--CH3), 1.44 (3H, d, J=7.0 Hz, --CH--CH3), 2.03 (1H, s, --OH), 4.07 (1H, q, J=7.0 Hz, --CH--CH3), 6.75 (1H, d, J=11.8 Hz, CHA =CHB), 6.96-7.21 (8H, m, ArH and CHA =CHB), 7.41 (1H, d J=7.5 Hz, ArH), 7.85 (1H, d J=7.9 Hz, ArH) m/e 250 (M+).

reactant | 5-methyl-6-oxo-dibenzo[a,e]cyclooctene | 0.1 g | CC1C(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)=O | C17H14O
reactant | methyl lithium | C[Li]
reactant | water | 10 ml | O | H2O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 5-Hydroxy-5,6-dimethyl-dibenzo[a,e]cyclooct-11-ene | 0.104 g | OC1(C(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)C)C | C18H18O
